US09079861B2
To a solution of (R)-1-((5)-1-(4-bromophenyl)ethyl)-4-(2-methylallyl)-4-phenyltetrahydropyrimidin-2(1H)-one (0.6 g, 1.45 mmol) in CH2Cl2 (15 mL) was added to m-CPBA (0.59 g, 2.9 mmol). The resulting solution was stirred overnight. The mixture was diluted with methyl tert-butyl ether (100 mL) and washed with 30 wt % aq sodium thiosulfate (3×50 mL) and saturated aqueous sodium bicarbonate (3×50 mL). The organic layer was dried over Na2SO4, filtered and then concentrated to afford (4S)-1-((S)-1-(4-bromophenyl)ethyl)-4-((2-methyloxiran-2-yl)methyl)-4-phenyltetrahydropyrimidin-2(1H)-one (0.61 g, Yield: 98%).

reactant | (R)-1-((5)-1-(4-bromophenyl)ethyl)-4-(2-methylallyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 1.45 mmol, 0.6 g | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O | C22H25BrN2O
reactant | m-CPBA | 2.9 mmol, 0.59 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methyl tert-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | (4S)-1-((S)-1-(4-bromophenyl)ethyl)-4-((2-methyloxiran-2-yl)methyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 0.61 g, Yield: 98% | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=CC=C1)CC1(OC1)C)=O | C22H25BrN2O2
